US05801176
N-[4-[4-(6-Fluorobenzo[b]thien-3-yl)-1-piperazinyl]butyl-acetamide
To a 0° C. solution of 4-(6-fluorobenzo[b]thien-3-yl)-1-piperazine-butanamine (3.13 g, 10.2 mmol), triethylamine (1.45 g, 14.3 mmol), and dichloromethane (60 mL) under a nitrogen atmosphere was added acetyl chloride (0.883 g, 11.3 mmol) rapidly. The reaction was stirred at 0° C. for 2 hours and then at room temperature for an additional 1 hour. The reaction was diluted with dichloromethane (140 mL), washed with 5% aqueous NaOH (100 mL), and dried (K2CO3). The solvent was removed in vacuo to give a brown solid. The crude product was chromatographed on silica gel with 10% methanol/dichloromethane as eluent to afford a tan solid. Recrystallization from ethyl acetate gave 1.85 g (52%) of the title compound as beige crystals: m.p.=141 °-142° C.

reactant | 4-(6-fluorobenzo[b]thien-3-yl)-1-piperazine-butanamine | 10.2 mmol, 3.13 g | FC=1C=CC2=C(SC=C2N2CCN(CC2)CCCCN)C1 | C16H22FN3S
reactant | triethylamine | 14.3 mmol, 1.45 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 11.3 mmol, 0.883 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 140 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 4-[4-(6-Fluorobenzo[b]thien-3-yl)-1-piperazinyl]butyl-acetamide | 1.85 g, 52% | FC=1C=CC2=C(SC=C2N2CCN(CC2)CCCCCC(=O)N)C1 | C18H24FN3OS
